### PR TITLE
[Merged by Bors] - refactor(Data/Finsupp): deprecate direct single ↔ Set.indicator shortcuts, add indicator_eq_set_indicator

### PR DESCRIPTION
**Pull request by IlPreteRosso**
deprecates `single_eq_set_indicator` and `single_eq_indicator`, routing through `Pi.single` instead. Also added the missing `indicator_eq_set_indicator` bridge between `Finsupp.indicator` and `Set.indicator`.

Continues #34083.

### CODE REVIEW

**Review by eric-wieser — DISMISSED** [review]
Please update the PR title; this commit does not add anything, it just golfs!

bors d+

**Comment by eric-wieser** [comment]
bors d-

File: Mathlib/Data/Finsupp/Single.lean [hunk 1]
```diff
@@ -61,18 +61,16 @@ theorem single_apply [Decidable (a = a')] : single a b a' = if a = a' then b els
...
-  classical
-  ext x
-  simp only [single_apply, Set.indicator, Set.mem_singleton_iff, @eq_comm _ a]
-
 theorem Set.indicator_singleton_eq (a : α) (f : α → M) :
     Set.indicator {a} f = ⇑(single a (f a)) := by
   classical
   ext x
   simp only [Set.indicator, Set.mem_singleton_iff, single_apply, @eq_comm _ a]
   split_ifs with h <;> simp [h]
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Single.lean]: This lemma name currently is bad, it is called `Finsupp.Set.indicator_singleton_eq`.

Instead we should have `Set.indicator_singleton_eq : Set.indicator {a} f = Pi.single a (f a)` in a different file entirely.

Comment (IlPreteRosso) [reply Mathlib/Data/Finsupp/Single.lean]: The name was suggested by another reviewer. I'll figure out a way to change this.

Comment (eric-wieser) [reply Mathlib/Data/Finsupp/Single.lean]: I suspect the reviewer did not intend the name to start with `Finsupp.Set.`.

File: Mathlib/Data/Finsupp/Single.lean [hunk 2]
```diff
@@ -61,18 +61,16 @@ theorem single_apply [Decidable (a = a')] : single a b a' = if a = a' then b els
...
 
-theorem single_eq_set_indicator : ⇑(single a b) = Set.indicator {a} fun _ => b := by
-  classical
-  ext x
-  simp only [single_apply, Set.indicator, Set.mem_singleton_iff, @eq_comm _ a]
-
-theorem Set.indicator_singleton_eq (a : α) (f : α → M) :
-    Set.indicator {a} f = ⇑(single a (f a)) := by
+theorem singleton_indicator_eq (a : α) (f : α → M) :
+    ⇑(single a (f a)) = Set.indicator {a} f := by
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Single.lean]:
```suggestion
    Set.indicator {a} f = Pi.single a (f a) := by
```
is what this statement should be, assuming we don't already have it.

File: Mathlib/Data/Finsupp/Single.lean (hunk 1 above)
Comment (IlPreteRosso) [reply Mathlib/Data/Finsupp/Single.lean]: I see, perhaps I misunderstood. I'm having a look at Set namespace files

Comment (IlPreteRosso) [reply Mathlib/Data/Finsupp/Single.lean]: A problem is, if we put this theorem in [Mathlib.Algebra.Group.Indicator](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Indicator.html#Set.mulIndicator_compl_mul_self) we will have to add the import [Mathlib.Data.Finsupp.Single](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finsupp/Single.html#Finsupp.single), but [Mathlib.Data.Finsupp.Single](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finsupp/Single.html#Finsupp.single) already imports [Mathlib.Algebra.Group.Indicator](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Indicator.html#Set.mulIndicator_compl_mul_self)

Comment (IlPreteRosso) [reply Mathlib/Data/Finsupp/Single.lean]: So the current change is, state the theorem `singleton_indicator_eq` in [Mathlib.Data.Finsupp.Single](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finsupp/Single.html#Finsupp.single) in the namespace , make Finsupp.single the LHS and Set.indicator the RHS.

Comment (eric-wieser) [reply Mathlib/Data/Finsupp/Single.lean]: Two comments:
* Changing namespaces and changing files are completely orthogonal. You can change namespaces by just moving something outside of a `namespace` command, or using `_root_`
* My suggestion below is for this to not use Finsupp.single at all.

File: Mathlib/Data/Finsupp/Single.lean (hunk 2 above)
Comment (IlPreteRosso) [reply Mathlib/Data/Finsupp/Single.lean]: What I was trying to do here is generalize the original 
```
theorem single_eq_set_indicator : ⇑(single a b) = Set.indicator {a} fun _ => b
```
to something that states
```
⇑(single a (f a)) = Set.indicator {a} f 
```

Comment (IlPreteRosso) [reply Mathlib/Data/Finsupp/Single.lean]: Which holds for general `f`

File: Mathlib/Data/Finsupp/Single.lean (hunk 1 above)
Comment (IlPreteRosso) [reply Mathlib/Data/Finsupp/Single.lean]: > Two comments:
> 
> * Changing namespaces and changing files are completely orthogonal. You can change namespaces by just moving something outside of a `namespace` command, or using `_root_`
> * My suggestion below is for this to not use Finsupp.single at all.

Got it I will update in a bit

File: Mathlib/Data/Finsupp/Single.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Finsupp/Single.lean]: For that you should instead be generalizing `Finsupp.single_eq_indicator` which is in a different file

File: Mathlib/Data/Finsupp/Indicator.lean [hunk 3]
```diff
@@ -66,9 +66,14 @@ theorem support_indicator_subset : ((indicator s f).support : Set ι) ⊆ s := b
   by_contra h
   exact hi (indicator_of_notMem h _)
 
-lemma single_eq_indicator (b : α) : single i b = indicator {i} (fun _ _ => b) := by
+lemma single_indicator_eq (a : ι) (f : ∀ j ∈ ({a} : Finset ι), α) :
+    single a (f a (mem_singleton_self a)) = indicator {a} f := by
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Indicator.lean]: As suggested in the other PR I think you should flip this equality and rename it to `indicator_singleton`

Comment (IlPreteRosso) [reply Mathlib/Data/Finsupp/Indicator.lean]: Renamed and flipped the two theorems after the name indicator_singleton, with different type signatures, in both Single.lean and Indicator.lean. Now the const versions are golfed via .symm

File: Mathlib/Data/Finsupp/Indicator.lean [hunk 4]
```diff
@@ -66,9 +66,14 @@ theorem support_indicator_subset : ((indicator s f).support : Set ι) ⊆ s := b
...
+lemma indicator_singleton (a : ι) (f : ∀ j ∈ ({a} : Finset ι), α) :
+    indicator {a} f = single a (f a (mem_singleton_self a)) := by
   classical
   ext j
-  simp [single_apply, indicator_apply, @eq_comm _ j]
+  simp only [single_apply, indicator_apply, mem_singleton, @eq_comm _ a j]
+  split_ifs with h <;> simp [h]
+
+lemma single_eq_indicator (b : α) : single i b = indicator {i} (fun _ _ => b) :=
+  (indicator_singleton i (fun _ _ => b)).symm
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Indicator.lean:78]: This now looks great, thanks!

File: Mathlib/Data/Finsupp/Single.lean [hunk 5]
```diff
@@ -61,18 +61,16 @@ theorem single_apply [Decidable (a = a')] : single a b a' = if a = a' then b els
...
-  ext x
-  simp only [single_apply, Set.indicator, Set.mem_singleton_iff, @eq_comm _ a]
-
-theorem Set.indicator_singleton_eq (a : α) (f : α → M) :
+theorem set_indicator_singleton (a : α) (f : α → M) :
     Set.indicator {a} f = ⇑(single a (f a)) := by
   classical
   ext x
   simp only [Set.indicator, Set.mem_singleton_iff, single_apply, @eq_comm _ a]
   split_ifs with h <;> simp [h]
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Single.lean]: This has a much shorter proof which I think is `classical rw [Set.indicator_singleton, Finsupp.single_eq_pi_single]`.

Comment (IlPreteRosso) [reply Mathlib/Data/Finsupp/Single.lean]: `Set.indicator_singleton` changes import `Mathlib.Algebra.Notation.Indicator` to import `Mathlib.Algebra.Group.Indicator`, need to move `single_eq_pi_single` to before `set_indicator_singleton` within Single.lean. Then `set_indicator_singleton` is golfed. Also golfed the relocated `single_eq_pi_single`.

**Comment by IlPreteRosso** [comment]
@eric-wieser No worries! I'll wait for more input then. Also as my earlier reply
>Set.indicator_singleton changes import

Now bot added large-import warning. So a trade off between golf and import. 

> Generally I would think of theorems as filling out the edges of a hypercube, not as also filling every possible diagonal.

I like this way of thinking.

**Review by Vierkantor — APPROVED** [review]
Let's get this merged after so much inactivity!

One final change: please update the deprecations so that the `since :=` are for today.

bors d+

**Comment by IlPreteRosso** [comment]
> Let's get this merged after so much inactivity!
> 
> One final change: please update the deprecations so that the `since :=` are for today.
> 
> bors d+

Thanks! 
bors r+
